US07625908B2
Sodium hydride (60% dispersion in mineral oil, 0.63 g) was added to 2-(methylamino)ethanol (0.95 ml), 15-crown-5 (100 μl) and N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-fluoroquinazolin-4-amine (1.5 g) in DMA (25 ml) and the reaction heated at 100° C. for 2 hours. The reaction was cooled, quenched with saturated aqueous ammonium chloride solution to pH 7-8. Addition of a small amount of saturated aqueous sodium hydrogen carbonate solution resulted in the formation of a precipitate, which was filtered, washed with water and dried. The solid was purified by chromatography using DCM-5% methanol/7N ammonia as eluent to give N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(methylamino)ethoxy]quinazolin-4-amine as a yellow solid (0.27 g, 45%); NMR spectrum (DMSO-d6) 2.40 (s, 3H), 3.02 (t, 2H), 4.35 (t, 2H), 5.28 (s, 2H), 7.12 (d, 1H), 7.25 (d, 1H), 7.31 (d, 1H), 7.37 (m, 1H), 7.57 (d, 1H), 7.71 (dd, 1H), 7.85 (m, 2H), 8.10 (d, 1H), 8.51 (s, 1H), 8.58 (m, 1H), 10.57 (bs, 1H); Mass spectrum MH+ 436.5.

reactant | Sodium hydride | 0.63 g | [H-].[Na+]
reactant | 2-(methylamino)ethanol | 0.95 ml | CNCCO | C3H9NO
reactant | 15-crown-5 | 100 μl | C1COCCOCCOCCOCCO1 | C10H20O5
reactant | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-fluoroquinazolin-4-amine | 1.5 g | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)F | C20H14ClFN4O
solvent | DMA | 25 ml | CC(=O)N(C)C | C4H9NO
product | N-[3-chloro-4-(pyridin-2-ylmethoxy)phenyl]-5-[2-(methylamino)ethoxy]quinazolin-4-amine | 0.27 g, 45% | ClC=1C=C(C=CC1OCC1=NC=CC=C1)NC1=NC=NC2=CC=CC(=C12)OCCNC | C23H22ClN5O2
